US08710065B2
2-ethyl-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline
Bromoethane (0.75 g, 6.88 mmol) was added to a solution of 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline (1.4 g, 6.79 mmol) and K2CO3 (2 g, 14.47 mmol) in N,N-dimethylformamide (80 mL). The mixture was stirred at 50° C. for 4 hours. The solvent was removed under vacuum to give a residue which was purified by silica gel column chromatography eluting with 10% ethyl acetate/heptane to provide the title compound.

reactant | Bromoethane | 6.88 mmol, 0.75 g | BrCC | C2H5Br
reactant | 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 6.79 mmol, 1.4 g | CC1(CNCC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | K2CO3 | 14.47 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 2-ethyl-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | C(C)N1CC2=CC(=CC=C2C(C1)(C)C)[N+](=O)[O-] | C13H18N2O2
